US05994370
Preparation of 2-[4-[2-(1-piperdinyl)ethoxy]phenyl]1,3-dithiane]
A 500 mL, 3-neck round bottom flask was charged with 4-[2-(1-piperdinyl)ethoxy]benzaldehyde (2.3 g, 10.0 mmol) and 1,3-propanedithiol (1.2 mL, 1.1 g, 10.2 mmol) in 250 mL of anhydrous chloroform under a nitrogen atmosphere. The solution was cooled to near 0° C. and dry HBr gas was slowly bubbled through the reaction mixture for 8 minutes. The mixture was allowed to warm to ambient temperature while stirring during 3.5 hr. The reaction mixture was then added to a large excess of 1N NaOH and ice and the chloroform layer was separated. The chloroform solution was washed with two 50 mL portions of 1N NaOH solution and two 25 mL portions of brine and dried over anhydrous sodium sulfate. After filtration and removal of the chloroform solvent, the residue was triturated with 1:1 hexane:ethyl ether to provide 2.19 g (68%) of a crystalline product which was used without further purification.

reactant | 4-[2-(1-piperdinyl)ethoxy]benzaldehyde | 10.0 mmol, 2.3 g | N1(CCCCC1)CCOC1=CC=C(C=O)C=C1 | C14H19NO2
reactant | 1,3-propanedithiol | 10.2 mmol, 1.2 mL, 1.1 g | C(CCS)S | C3H8S2
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-[2-(1-piperdinyl)ethoxy]phenyl]1,3-dithiane | 2.19 g, 68% | N1(CCCCC1)CCOC1=CC=C(C=C1)C1SCCCS1 | C17H25NOS2
